US07935824B2
(1S,2R,4S)—N1-[(5-Fluoroindol-2-yl)carbonyl]-4-(N-methylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(1S,2R,4S)-4-Ethoxycarbonyl-N1-[(5-fluoroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine was hydrolyzed and then subjected to a condensation reaction with monomethylamine hydrochloride in a similar manner to Example 157 to obtain the title compound.

reactant | (1S,2R,4S)-4-Ethoxycarbonyl-N1-[(5-fluoroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | C(C)OC(=O)[C@@H]1C[C@H]([C@H](CC1)NC(=O)C=1NC2=CC=C(C=C2C1)F)NC(=O)C=1SC=2CN(CCC2N1)C | C26H30FN5O4S
reactant | monomethylamine hydrochloride | Cl.CN
product | (1S,2R,4S)—N1-[(5-Fluoroindol-2-yl)carbonyl]-4-(N-methylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | Cl.FC=1C=C2C=C(NC2=CC1)C(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(NC)=O)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C25H29FN6O3S.ClH/c1-27-22(33)13-3-5-17(29-23(34)20-11-14-9-15(26)4-6-16(14)28-20)19(10-13)30-24(35)25-31-18-7-8-32(2)12-21(18)36-25;/h4,6,9,11,13,17,19,28H,3,5,7-8,10,12H2,1-2H3,(H,27,33)(H,29,34)(H,30,35);1H/t13-,17-,19+;/m0./s1
